
* ==================================== *
* IP Name :avsdvco_1V8
* PDK : Sky130 PDK by Google SkyWater
* ==================================== *

* ~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~
*  Name of the author : NALINKUMAR S 
* ~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~

* =================================== *
 .TITLE avsd_vco_1V8 analysis @ 0.9 V 
* =================================== *


* === To INCLUDE skywater-130nm model library === *
.lib "sky130_fd_pr/models/sky130.lib.spice" tt

.option scale=10n

X0 a_458_n504# a_322_n504# a_395_n742# GND sky130_fd_pr__nfet_01v8 w=50 l=18

X1 GND VCTRL a_n179_n190# GND sky130_fd_pr__nfet_01v8 w=101 l=18

X2 a_8_n409# a_458_n504# a_531_n346# VDD sky130_fd_pr__pfet_01v8 w=50 l=18

X3 a_186_n505# a_50_n505# a_123_n347# VDD sky130_fd_pr__pfet_01v8 w=50 l=18

X4 a_322_n504# a_186_n505# a_259_n346# VDD sky130_fd_pr__pfet_01v8 w=50 l=18

X5 a_8_n409# a_458_n504# a_531_n742# GND sky130_fd_pr__nfet_01v8 w=50 l=18

X6 a_802_n597# a_8_n409# GND GND sky130_fd_pr__nfet_01v8 w=144 l=18

X7 VDD a_n179_n190# a_395_n346# VDD sky130_fd_pr__pfet_01v8 w=130 l=18

X8 a_186_n505# a_50_n505# a_123_n742# GND sky130_fd_pr__nfet_01v8 w=50 l=18

X9 a_322_n504# a_186_n505# a_259_n742# GND sky130_fd_pr__nfet_01v8 w=50 l=18

X10 VDD a_n179_n190# a_123_n347# VDD sky130_fd_pr__pfet_01v8 w=130 l=18

X11 F_OUT a_802_n597# VDD VDD sky130_fd_pr__pfet_01v8 w=129 l=18

X12 GND VCTRL a_395_n742# GND sky130_fd_pr__nfet_01v8 w=129 l=18

X13 GND VCTRL a_123_n742# GND sky130_fd_pr__nfet_01v8 w=129 l=18

X14 a_50_n505# a_8_n409# a_n13_n347# VDD sky130_fd_pr__pfet_01v8 w=50 l=18

X15 F_OUT a_802_n597# GND GND sky130_fd_pr__nfet_01v8 w=65 l=18

X16 VDD a_n179_n190# a_531_n346# VDD sky130_fd_pr__pfet_01v8 w=130 l=18

X17 a_50_n505# a_8_n409# a_n13_n742# GND sky130_fd_pr__nfet_01v8 w=50 l=18

X18 bias a_n179_n190# a_n179_n190# VDD sky130_fd_pr__pfet_01v8 w=101 l=18

X19 VDD a_n179_n190# a_n13_n347# VDD sky130_fd_pr__pfet_01v8 w=130 l=18

X20 VDD a_n179_n190# a_259_n346# VDD sky130_fd_pr__pfet_01v8 w=130 l=18

X21 GND VCTRL a_531_n742# GND sky130_fd_pr__nfet_01v8 w=129 l=18

X22 a_458_n504# a_322_n504# a_395_n346# VDD sky130_fd_pr__pfet_01v8 w=50 l=18

X23 GND VCTRL a_259_n742# GND sky130_fd_pr__nfet_01v8 w=129 l=18

X24 a_802_n597# a_8_n409# VDD VDD sky130_fd_pr__pfet_01v8 w=288 l=18

X25 GND VCTRL a_n13_n742# GND sky130_fd_pr__nfet_01v8 w=129 l=18


C0 a_n179_n190# GND 2.03fF

C1 VDD GND 9.38fF


V_Ibias VDD bias 0

* === DC VOLTAGE SOURCE (V=1.8V) === *
VDD VDD GND 1.8

* === DC CONTROL VOLTAGE (V=0.9V) === *
* NOTE: VCTRL can be varied from 0.4 V to 1.6 V to get various output frequency
 
VCTRL VCTRL GND DC=0.9

* ~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~ *
* === COMMANDS FOR SIMULATION === * 
* ~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~~ *

.control

tran 1ps 10ns

* --- Changing Plot styles --- *

set color2 = orange
set xbrushwidth = 2.5

* --- Plotting waveform --- *
plot v(F_OUT)

print allv > plot_data_v.txt
print alli > plot_data_i.txt


.endc
.end